US07888366B2
3,4-Difluorobenzyl alcohol (1.47 g; 10.1 mmol) was added to a cooled (0° C.) slurry of sodium hydride (0.414 g; 10.3 mmol) in dimethylformamide under nitrogen atmosphere. The reaction mixture was slowly warmed to room temperature, stirred for 1 hour. The reaction mixture was then added to a cooled (0° C.) solution of 2,6-difluorobenzonitrile in dimethylformamide, stirred for 3 hours at room temperature. The reaction mixture was poured on crushed ice-water, stirred, filtered, washed with water and dried to afford 1.47 grams of 2-fluoro-6-(3,4-diflurophenylmethoxy)benzonitrile.

reactant | 3,4-Difluorobenzyl alcohol | 10.1 mmol, 1.47 g | FC=1C=C(CO)C=CC1F | C7H6F2O
reactant | sodium hydride | 10.3 mmol, 0.414 g | [H-].[Na+]
reactant | 2,6-difluorobenzonitrile | FC1=C(C#N)C(=CC=C1)F | C7H3F2N
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 2-fluoro-6-(3,4-diflurophenylmethoxy)benzonitrile | 1.47 grams | FC1=C(C#N)C(=CC=C1)OCC1=CC(=C(C=C1)F)F | C14H8F3NO
